US09163051B2
2-Bromo-1-(1-methoxy-1-methylethoxymethyl)benzene
Condition 4: Under a nitrogen atmosphere, 2,4-dibromo-1-(1-methoxy-1-methylethoxymethyl)benzene (500 mg, 1.48 mmol) was dissolved in toluene (3.65 ml) and t-butylmethyl ether (0.35 ml). To the solution was added dropwise n-butyllithium in hexane (1.6 M, 1.01 ml, 1.62 mmol) at 0° C. over 30 minutes. After completion of the addition, a saturated aqueous solution of ammonium chloride was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give a product containing 4-bromide and 2-bromide as an oil (373 mg). According to 1H-NMR analysis of the product, the ratio of 4-bromide:2-bromide was determined as 40:1, which was calculated based on the integration ratio of peaks of protons at benzyl position.

reactant | 2,4-dibromo-1-(1-methoxy-1-methylethoxymethyl)benzene | 1.48 mmol, 500 mg | BrC1=C(C=CC(=C1)Br)C(OC)OC(C)C | C11H14Br2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 1.62 mmol, 1.6 M, 1.01 ml | CCCCCC | C6H14
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 3.65 ml | C1(=CC=CC=C1)C | C7H8
solvent | t-butylmethyl ether | 0.35 ml | C(C)(C)(C)OC | C5H12O
product | 2-Bromo-1-(1-methoxy-1-methylethoxymethyl)benzene | BrC1=C(C=CC=C1)C(OC)OC(C)C | C11H15BrO2
